2141-10-12 07:30:00 Physician Resident Progress Note
Chief Complaint: positional tachycardia and hypertension
   24 Hour Events:
   No acute events after admission to the MICU.
   Was floridly orthostatic with large overshoot BP response to
   hypertensive state. (Orthostatics: The patient was sat up in bed - BP
   subsequently dropped from 116/72 to 75/48 with HR change of 85 to 169.
   Pt had convulsions with episode of hypotension but was alert and
   communicative throughout episode.)
   Tele event only with above sitting up episode. Few episodes of
   tachycardia.
   Allergies:
   Prochlorperazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-12**] 06:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-12**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 64 (64 - 169) bpm
   BP: 91/45(55) {75/45(55) - 150/90(95)} mmHg
   RR: 22 (10 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,217 mL
                  PO:
                                                                  1,050 mL
                  TF:
   IVF:
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -83 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG:
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, AA&Ox3, appropriate, normal affect Speech
   Fluent CN II-XII intact, R pupil>L but both brisk and reactive, EOMI no
   nystagmus, Motor: Normal bulk and tone, no tremor, rigidity
   Strength: [**5-22**] throughout, Finger to nose and heel to shin intact
   Labs / Radiology
   272 K/uL
   12.1 g/dL
   95 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   33.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2141-10-11**]  08:16 PM
   WBC
   5.7
   Hct
   33.3
   Plt
   272
   Cr
   0.8
   Glucose
   95
   Other labs: PT / PTT / INR:13.0/25.8/1.1, Differential-Neuts:52.4 %,
   Lymph:38.6 %, Mono:6.0 %, Eos:2.6 %, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Urine Na 148; urine osms 422; urine urea nitrogen 244
   Head CT
 prelim read normal head CT
   Assessment and Plan
   A/P: 21 year old female with hx traumatic brain injury presenting with
   tachycardia and hypertension of unclear etiology.
   #. Postural Hemodynamic Changes - On orthostatic testing in ICU pt had
   evidence of orthostatsis. Most likely related to volume depletion vs
   autonomic insufficiency. Given minimal hemodynamic data available from
   prior events, it is difficult to fully assess however it is possible
   her BP was measured during her recovery phase from orthostasis when it
   was found to be elevated. If HD prove unrelated to orthostasis on
   repeat testing also consider etiologies of episodic tachycardia
   including pheochromocytoma, carcinoid (pt with recent history of
   diarrhea alternating with constipation, denies flushing)
   - Neurology following - appreciate recs
   - Cardiology following - appreciate recs
   - monitor on telemetry
   - drink to thirst, replete 1L NS
 observe for effect
   - add on urine creatinine
   - f/u non-con head CT final read
   - MRI head
   - follow-up lab testing from [**Location (un) **] including - catecholamines,
   cortisol, 5-HIAA
   .
   # History of Head Trauma/Seizure - pt reports only 1 seizure in past at
   the time of her fall - was briefly on dilantin
   - MRI, EEG per neuro recs
   - consider EEG with positional changes
   .
   # IBS
 does not seem active
   - monitor stool output
   .
   # FEN - drink to thirst, 1L NS repletion, replete lytes PRN
   .
   # Access - PIV
   .
   # Code - Full
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  good glycemic control
   Lines:
   22 Gauge - [**2141-10-11**] 07:32 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: not indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments: with patient and her parents
   Code status: Full code
   Disposition: to tele floor

2141-10-13 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Evaluated by Neurology (Autonomics). Detailed note left in OMR.
   recommends:
   - -HeadCT
   - Admit ICU on telemetry
   - Keep bed flat
   - Will likely need MRI Brain with contrast when more stable
   - F/U OSH labs for pheo
   - Consider repeating EMG and performing LP to evaluate for GBS
   - Neurology consult team will continue to follow in ICU
   Several episodes of CP, tachycardia, HTN, no EKG change during
   neurology consult. At least twice events occurred with patient
   completely supine, with no postural change.
   Allergies:
   Prochlorperazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-13**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.6
   HR: 73 (60 - 159) bpm
   BP: 96/62(70) {89/45(56) - 158/95(108)} mmHg
   RR: 14 (10 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,148 mL
                                                                    928 mL
   PO:
                                                                  1,350 mL
             TF:
   IVF:
                                                                  1,798 mL
                                                                    928 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
                                                                  2,500 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    548 mL
                                                                    928 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, resting
   comfortably supine.
   Eyes / Conjunctiva: PERRL, EOMI, nonicteric, noninjected sclera
   Head, Ears, Nose, Throat: Normocephalic, atraumatic, OP MMM, no
   erythema
   Lymphatic: Cervical WNL
   Cardiovascular: S1,S2 wnl, no m/r/g
   Respiratory / Chest: CTA bilaterally, no rales, rhonchi, or wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Extremities: no edema, DP 2+ bil.
   Skin:  Warm, normal turgor
   Neurologic: A+Ox3, appropriate, though somewhat childlike affect.
   CNII-XII intact. Strenth [**5-22**] upper and lower extremities. Finger to
   nose and heel to shin intact.
   Labs / Radiology
   283 K/uL
   11.4 g/dL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   5 mg/dL
   110 mEq/L
   140 mEq/L
   31.5 %
   5.7 K/uL
        [image002.jpg]
   D-Dimer NEG
                             [**2141-10-11**]  08:16 PM
                             [**2141-10-12**]  08:04 AM
                             [**2141-10-13**]  04:45 AM
   WBC
   5.7
   5.8
   5.7
   Hct
   33.3
   35.2
   31.5
   Plt
   272
   306
   283
   Cr
   0.8
   0.8
   0.7
   Glucose
   95
   91
   104
   Other labs: PT / PTT / INR:13.0/25.8/1.1, CK / CKMB / Troponin-T:46//,
   ALT / AST:20/20, Alk Phos / T Bili:53/0.3, Amylase / Lipase:42/42,
   Differential-Neuts:52.4 %, Lymph:38.6 %, Mono:6.0 %, Eos:2.6 %,
   Albumin:4.0 g/dL, LDH:107 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   #. Postural Hemodynamic Changes
 Pt has had multiple episodes of CP,
   tachycardia, and HTN, both when supine, and with elevation. While the
   events seem can be precipitated by postural changes, they do not
   require them. The episodes have a significant component of chest pain,
   substernal, [**8-27**], nonradiating, that will slowly decrease after
   episodes has resolved. Pt has been observed to develop signs of pain
   before hemodynamic changes, though the two evens happen closeThe
   differential includes Pheochromocytoma, POTS, carcinoid, GBS w/
   autonomic dysreflexia, psuedopheochromocytoma, and Cardiac.
   -Pheochromocytoma is unlikey with a negative test for serum
   metanephrines (from OSH).  Serum metanephrines are the test with the
   highest specificity for pheochromocytoma (97%). 24h Urine metanephrines
   and catecholamines have greater specificity, and are pending from OSH.
   Additionally CT-Abd at the OSH showed normal kidnesy and adrenals.
   There was normal per-appendiceal regions. There was a small density in
   the appendix that is likely a fecolith. Will follow up remaining labs.
   If other tests are all negative will consider re-evaluation of the
   appendix.
   -Carcinoid: reassuring CT-abd. Will send HIAA
   -GBS: had a normal EMG at the OSH, will consider repeat EMG or LP if
   other studies continue to be negative.
   -Intracranial process: Had negative HD CT x 2. Will have head MRI here.
   -PE/Dissection/pulmonary/pleuritic process: negative CT-[**MD Number(3) 856**]
   - CAD unlikely w/ stable CEs at multiple points, Normal EKGs, and no
   EKGs during episodes.
   - Cardiac structural/mass: ECHO today.
   - Will have Octreatide scan which may be able to find rare
   pheochromocytomas or carcinoid tumors, e.g intra cardiac.
   - Consider psychiatric related diagnoses after all testing is completed
   (e.g. panic disorder, paroxysmal hypertension, factitious disorder),
   consider psychiatry eval if all studies are negative.
   - Neurology following - appreciate recs
   - Cardiology following - appreciate recs
   - monitor on telemetry
   - f/u remaining studies and tests (MRI, OCTREOTIDE, ECHO, 24 Urine
   MN,CCA, HIAA, review OSH reports)
   .
   # History of Head Trauma/Seizure - pt reports only 1 seizure in past at
   the time of her fall - was briefly on dilantin
   - MRI, EEG per neuro recs
   - consider EEG with positional changes
   .
   # IBS
 does not seem active
   - monitor stool output
   .
   # FEN - drink to thirst, 1L NS repletion, replete lytes PRN.
   # Access - PIV
   # Code - Full
   # Disposition: ICU for now, patient may be able to go to floor for
   remainder of evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-10-11**] 07:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-14 05:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   MRI/MRA done, no read yet
   Given small doses of ativan and morphine for chest pain
   Had another episode of hypertension and bradycardia at 22:00 h
   Octreotide scan would be monday
   Allergies:
   Prochlorperazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-10-13**] 02:10 PM
   Lorazepam (Ativan) - [**2141-10-13**] 02:15 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-14**] 05:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 69 (60 - 155) bpm
   BP: 99/67(74) {92/50(60) - 122/88(95)} mmHg
   RR: 20 (13 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,260 mL
                                                                    100 mL
   PO:
                                                                  1,080 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,180 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    325 mL
   Urine:
                                                                  3,400 mL
                                                                    325 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,240 mL
                                                                   -225 mL
   Respiratory support
   SpO2: 99%
   RA
   Physical Examination
   General Appearance: Well nourished, No acute distress, resting
   comfortably supine.
   Eyes / Conjunctiva: PERRL, EOMI, nonicteric, noninjected sclera
   Head, Ears, Nose, Throat: Normocephalic, atraumatic, OP MMM, no
   erythema
   Lymphatic: Cervical WNL
   Cardiovascular: S1,S2 wnl, no m/r/g
   Respiratory / Chest: CTA bilaterally, no rales, rhonchi, or wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Extremities: no edema, DP 2+ bil.
   Skin:  Warm, normal turgor
   Neurologic: A+Ox3, appropriate, though somewhat childlike affect.
   CNII-XII intact. Strenth [**5-22**] upper and lower extremities. Finger to
   nose and heel to shin intact.
   Labs / Radiology
   283 K/uL
   11.4 g/dL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   5 mg/dL
   110 mEq/L
   140 mEq/L
   31.5 %
   5.7 K/uL
        [image002.jpg]
                             [**2141-10-11**]  08:16 PM
                             [**2141-10-12**]  08:04 AM
                             [**2141-10-13**]  04:45 AM
   WBC
   5.7
   5.8
   5.7
   Hct
   33.3
   35.2
   31.5
   Plt
   272
   306
   283
   Cr
   0.8
   0.8
   0.7
   Glucose
   95
   91
   104
   Other labs: PT / PTT / INR:13.0/25.8/1.1, CK / CKMB / Troponin-T:46//,
   ALT / AST:20/20, Alk Phos / T Bili:53/0.3, Amylase / Lipase:42/42,
   Differential-Neuts:52.4 %, Lymph:38.6 %, Mono:6.0 %, Eos:2.6 %,
   D-dimer:169 ng/mL, Albumin:4.0 g/dL, LDH:107 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   #. Postural Hemodynamic Changes
 Pt has had multiple episodes of CP,
   tachycardia, and HTN, both when supine, and with elevation. While the
   events seem can be precipitated by postural changes, they do not
   require them. The episodes have a significant component of chest pain,
   substernal, [**8-27**], nonradiating, that will slowly decrease after
   episodes has resolved. Pt has been observed to develop signs of pain
   before hemodynamic changes, though the two evens happen closeThe
   differential includes Pheochromocytoma, POTS, carcinoid, GBS w/
   autonomic dysreflexia, psuedopheochromocytoma, and Cardiac.
   -Pheochromocytoma is unlikey with a negative test for serum
   metanephrines (from OSH).  Serum metanephrines are the test with the
   highest specificity for pheochromocytoma (97%). 24h Urine metanephrines
   and catecholamines have greater specificity, and are pending from OSH.
   Additionally CT-Abd at the OSH showed normal kidnesy and adrenals.
   There was normal per-appendiceal regions. There was a small density in
   the appendix that is likely a fecolith. Will follow up remaining labs.
   If other tests are all negative will consider re-evaluation of the
   appendix.
   -Carcinoid: reassuring CT-abd. Will send HIAA
   -GBS: had a normal EMG at the OSH, will consider repeat EMG or LP if
   other studies continue to be negative.
   -Intracranial process: Had negative HD CT x 2. Will have head MRI here.
   -PE/Dissection/pulmonary/pleuritic process: negative CT-[**MD Number(3) 856**]
   - CAD unlikely w/ stable CEs at multiple points, Normal EKGs, and no
   EKGs during episodes.
   - Cardiac structural/mass: ECHO today.
   - Will have Octreatide scan which may be able to find rare
   pheochromocytomas or carcinoid tumors, e.g intra cardiac.
   - Consider psychiatric related diagnoses after all testing is completed
   (e.g. panic disorder, paroxysmal hypertension, factitious disorder),
   consider psychiatry eval if all studies are negative.
   - Neurology following - appreciate recs
   - Cardiology following - appreciate recs
   - monitor on telemetry
   - f/u remaining studies and tests (MRI, OCTREOTIDE, ECHO, 24 Urine
   MN,CCA, HIAA, review OSH reports)
   - will attempt to sit up
 recheck orthostatics
   - send lyme serologies
   .
   # History of Head Trauma/Seizure - pt reports only 1 seizure in past at
   the time of her fall - was briefly on dilantin
   - MRI, EEG per neuro recs
   - consider EEG with positional changes
   .
   # IBS
 does not seem active
   - monitor stool output
   .
   # FEN - drink to thirst, fluid repletion, replete lytes PRN.
   # Glycemic control
 good control
   # Access - PIV
   # Code - Full
   # Disposition: ICU for now, patient may be able to go to floor for
   remainder of evaluation.
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 21F remote head injury now with five day
   history of positional neurologic symptoms in the setting of
   hypertension and tachycardia. Continues to have reproducible episodes
   triggered by sitting up resulting in tachycardia and previously noted
   hypertension.  Team took BP last night before and immediately after
   sitting up and found hypotension immediately upon sitting up with
   development of hypertension in minutes subsequent to that.   Pt only
   notes tape related rash with no other complaints as long as she doesn
   sit up.  Pt had MRI yesterday
 results pending.
   Exam notable for:
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 69 (60 - 155) bpm
   BP: 99/67(74) {92/50(60) - 122/88(95)} mmHg
   RR: 20 (13 - 34) insp/min
   SpO2: 99%
   Thin WF female, NAD.  Lungs CTA. Cv RRR s1s2, abd soft ntnd bs+.
   Labs notable for hct 31.5
   21F w/ hx remote head injury now with position neuron sx on sitting
   up.  Etiology of symptoms remains puzzling.  Neuro and cardiology are
   following.
   Continue telemetry monitoring.  Repeat process documenting pulse/BP
   supine, immediately after sitting up and q1-2 minutes afterward to
   better delineate course and determine if period of hypotension followed
   by hypertension with the tachycardia.  Also trying approach of
   gradually sitting up to see if sx relate purely position or rapid
   change in position.
   Need to followup on MRI to r/o mass/tumor.  Had LP as OSH. Neg per
   report.  Check Lyme titer if hasn
t been sent. Remainder of w/u as
   detailed above as well as per recs neuron/card services.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) 323**], MD
   on:[**2141-10-14**] 02:58 PM ------

2141-10-15 05:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   episode of tachcardia unprovoked by positional change, but rather in
   the context of [**6-27**] chest tightness, with rhythmic jerking of all 4
   extremities despite full consciousness throughout - received 1mg ativan
   and 1mg morphine IV with resolution over approx 5 minutes (max hr 160
   with BP 150/90s)
   neuro c/s suggesting pain is possible as primary problem causing other
   symptoms and should be evaluated for chest pathology with CT
   Allergies:
   Prochlorperazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-15**] 05:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 58 (58 - 90) bpm
   BP: 107/61(72) {91/45(59) - 122/73(82)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 21 Inch
                  Total In:
                                                                    880 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                      0 mL
   Urine:
                                                                  2,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,245 mL
                                                                      0 mL
   Respiratory support
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, resting
   comfortably supine.
   Eyes / Conjunctiva: PERRL, dilated pupils 6mm ->5mm, EOMI, nonicteric,
   noninjected sclera, no nystagmus,
   Head, Ears, Nose, Throat: Normocephalic, atraumatic, OP MMM, no
   erythema
   Lymphatic: Cervical WNL
   Cardiovascular: S1,S2 wnl, mild flow murmur this am 2/6 systolic, at
   LSB.
   Respiratory / Chest: CTA bilaterally, no rales, rhonchi, or wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Extremities: no edema, DP 2+ bil.
   Skin:  Warm, normal turgor
   Neurologic: A+Ox3, appropriate, though somewhat childlike affect.
   CNII-XII intact. Strenth [**5-22**] upper and lower extremities. Finger to
   nose and heel to shin intact.
   Labs / Radiology
   289 K/uL
   12.4 g/dL
   85 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   7 mg/dL
   104 mEq/L
   137 mEq/L
   33.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2141-10-11**]  08:16 PM
                             [**2141-10-12**]  08:04 AM
                             [**2141-10-13**]  04:45 AM
                             [**2141-10-14**]  06:21 AM
   WBC
   5.7
   5.8
   5.7
   5.4
   Hct
   33.3
   35.2
   31.5
   33.8
   Plt
   272
   306
   283
   289
   Cr
   0.8
   0.8
   0.7
   0.8
   Glucose
   95
   91
   104
   85
   Other labs: PT / PTT / INR:13.0/25.8/1.1, CK / CKMB / Troponin-T:46//,
   ALT / AST:20/20, Alk Phos / T Bili:53/0.3, Amylase / Lipase:42/42,
   Differential-Neuts:52.4 %, Lymph:38.6 %, Mono:6.0 %, Eos:2.6 %,
   D-dimer:169 ng/mL, Albumin:4.0 g/dL, LDH:107 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   #. Postural Hemodynamic Changes
 Pt has had multiple episodes of CP,
   tachycardia, and HTN, both when supine, and with elevation. While the
   events seem can be precipitated by postural changes, they do not
   require them. The episodes have a significant component of chest pain,
   substernal, [**8-27**], nonradiating, that will slowly decrease after
   episodes has resolved. Pt has been observed to develop signs of pain
   before hemodynamic changes, though the two evens happen closeThe
   differential includes Pheochromocytoma, POTS, carcinoid, GBS w/
   autonomic dysreflexia, psuedopheochromocytoma, and Cardiac.
   -Pheochromocytoma is unlikey with a negative test for serum
   metanephrines (from OSH).  Serum metanephrines are the test with the
   highest specificity for pheochromocytoma (97%). 24h Urine metanephrines
   and catecholamines have greater specificity, and are pending from OSH.
   Additionally CT-Abd at the OSH showed normal kidnesy and adrenals.
   There was normal per-appendiceal regions. There was a small density in
   the appendix that is likely a fecolith. Will follow up remaining labs.
   If other tests are all negative will consider re-evaluation of the
   appendix.
   -Carcinoid: reassuring CT-abd. HIAA pending.
   -GBS: had a normal EMG at the OSH, will consider repeat EMG or LP if
   other studies continue to be negative.
   -Intracranial process: Had negative HD CT x 2. MRI yesterday normal
   (two cystic structures, chronic arachnoid cysts)
   -PE/Dissection/pulmonary/pleuritic process: negative CT-[**MD Number(3) 856**],
   normal CXRs, normal sats,
   - CAD unlikely w/ stable CEs at multiple points, Normal EKGs, and no
   EKGs during episodes.
   - Cardiac structural/mass: ECHO yesterday was normal.
   - Will have Octreatide scan which may be able to find rare
   pheochromocytomas or carcinoid tumors, e.g intra cardiac.
   - Seizure, unlikely, but does have mild post-episode fatigue,
   ?post-ictal symptoms. Consider EEG.
   - Consider psychiatric related diagnoses after all testing is completed
   (e.g. panic disorder, paroxysmal hypertension, factitious disorder),
   consider psychiatry eval if all studies are negative.
   - Neurology following - appreciate recs
   - Cardiology following - appreciate recs
   - monitor on telemetry
   - f/u remaining studies and tests (OCTREOTIDE , 24 Urine MN,CCA, HIAA,
   review OSH reports)
   - will attempt to sit up
 recheck orthostatics
   - send lyme serologies
   .
   # History of Head Trauma/Seizure - pt reports only 1 seizure in past at
   the time of her fall - was briefly on dilantin
   - MRI/MRA normal,
   - consider EEG with positional changes
   .
   # IBS
 does not seem active
   - monitor stool output
   .
   # FEN - drink to thirst, fluid repletion, replete lytes PRN.
   # Glycemic control
 good control
   # Access
 PIV
   # PPx
 heparin SQ
   # Code - Full
   # Disposition: ICU for now, patient may be able to go to floor for
   remainder of evaluation.
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 21F remote head injury now with five day
   history of positional neurologic symptoms in the setting of
   hypertension and tachycardia. Pt continues to have reproducible
   episodes triggered by sitting up resulting in tachycardia and
   previously noted hypertension.  Several more episodes since yesterday-
   checks sub 30 sec into symptoms reveal HTN accompanying chest pressure
   (non reproducible), tachycardia.  One event happened while very
   gradually raising HOB over period of ~30min (at approx 30degrees).
   Exam notable for:
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 58 (58 - 90) bpm
   BP: 107/61(72) {91/45(59) - 122/73(82)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 97%
   Thin WF female, NAD.  Lungs CTA. Cv RRR s1s2, abd soft ntnd bs+.
   appears anxious.  Pupils 5mm b/l.  No nystagmus.
   21F w/ hx remote head injury now with positional autonomic type symptom
   set on sitting up.  Etiology of symptoms remains puzzling.  Essentially
   100% instance when attempting to sit up. Neuro and cardiology are
   following.  Continue telemetry monitoring.  Neuroendocrine etiologies
   workup in process, MRI head, Lyme.  Also possible some sort of
   esophageal spasm with pronounced autonomic response ? related to
   anxiety regarding symptoms?  Though why this would be triggered on
   sitting up is unclear.  Neuro/autonomic folks involved and guiding
   workup.  [**Name (NI) **], boyfriend present during rounds.  Workup to date
   discussed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) 323**], MD
   on:[**2141-10-15**] 05:58 PM ------

2141-10-16 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Multiple episodes of CP, tachycardia, HTN.
   Treated w/ Morhpine and Ativan. Resolve.
   Allergies:
   Prochlorperazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2141-10-15**] 08:15 PM
   Morphine Sulfate - [**2141-10-15**] 08:15 PM
   Heparin Sodium - [**2141-10-16**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-16**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 94 (63 - 159) bpm
   BP: 89/46(56) {86/42(52) - 163/111(135)} mmHg
   RR: 14 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
                  Total In:
                                                                  1,080 mL
                                                                    300 mL
   PO:
                                                                  1,080 mL
                                                                    300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    800 mL
   Urine:
                                                                  2,400 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,320 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, resting
   comfortably supine.
   Eyes / Conjunctiva: PERRL, dilated pupils 6mm ->5mm, EOMI, nonicteric,
   noninjected sclera, no nystagmus,
   Head, Ears, Nose, Throat: Normocephalic, atraumatic, OP MMM, no
   erythema
   Lymphatic: Cervical WNL
   Cardiovascular: S1,S2 wnl, mild flow murmur this am 2/6 systolic, at
   LSB.
   Respiratory / Chest: CTA bilaterally, no rales, rhonchi, or wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Extremities: no edema, DP 2+ bil.
   Skin:  Warm, normal turgor
   Neurologic: A+Ox3, appropriate, though somewhat childlike affect.
   CNII-XII intact. Strenth [**5-22**] upper and lower extremities. Finger to
   nose and heel to shin intact.
   Labs / Radiology
   272 K/uL
   12.9 g/dL
   87 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   135 mEq/L
   34.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2141-10-11**]  08:16 PM
                             [**2141-10-12**]  08:04 AM
                             [**2141-10-13**]  04:45 AM
                             [**2141-10-14**]  06:21 AM
                             [**2141-10-15**]  03:40 AM
   WBC
   5.7
   5.8
   5.7
   5.4
   5.3
   Hct
   33.3
   35.2
   31.5
   33.8
   34.1
   Plt
   272
   306
   283
   289
   272
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   Glucose
   95
   91
   104
   85
   87
   Other labs: PT / PTT / INR:13.0/25.8/1.1, CK / CKMB / Troponin-T:46//,
   ALT / AST:20/20, Alk Phos / T Bili:53/0.3, Amylase / Lipase:42/42,
   Differential-Neuts:52.4 %, Lymph:38.6 %, Mono:6.0 %, Eos:2.6 %,
   D-dimer:169 ng/mL, Albumin:4.0 g/dL, LDH:107 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   #. Postural Hemodynamic Changes
 Pt has had multiple episodes of CP,
   tachycardia, and HTN, both when supine, and with elevation. While the
   events seem can be precipitated by postural changes, they do not
   require them. The episodes have a significant component of chest pain,
   substernal, [**8-27**], nonradiating, that will slowly decrease after
   episodes has resolved. Pt has been observed to develop signs of pain
   before hemodynamic changes, though the two evens happen closeThe
   differential includes Pheochromocytoma, POTS, carcinoid, GBS w/
   autonomic dysreflexia, psuedopheochromocytoma, and Cardiac.
   -Pheochromocytoma is unlikey with a negative test for serum
   metanephrines (from OSH).  Serum metanephrines are the test with the
   highest specificity for pheochromocytoma (97%). 24h Urine metanephrines
   and catecholamines have greater specificity, and are pending from OSH.
   Additionally CT-Abd at the OSH showed normal kidnesy and adrenals.
   There was normal per-appendiceal regions. There was a small density in
   the appendix that is likely a fecolith. Will follow up remaining labs.
   If other tests are all negative will consider re-evaluation of the
   appendix.
   -Carcinoid: reassuring CT-abd. HIAA pending.
   -GBS: had a normal EMG at the OSH, will consider repeat EMG or LP if
   other studies continue to be negative.
   -Intracranial process: Had negative HD CT x 2. MRI yesterday normal
   (two cystic structures, chronic arachnoid cysts)
   -PE/Dissection/pulmonary/pleuritic process: negative CT-[**MD Number(3) 856**],
   normal CXRs, normal sats,
   - CAD unlikely w/ stable CEs at multiple points, Normal EKGs, and no
   EKGs during episodes.
   - Cardiac structural/mass: ECHO yesterday was normal.
   - Will have Octreatide scan which may be able to find rare
   pheochromocytomas or carcinoid tumors, e.g intra cardiac.
   - Seizure, unlikely, but does have mild post-episode fatigue,
   ?post-ictal symptoms. Consider EEG.
   - Consider psychiatric related diagnoses after all testing is completed
   (e.g. panic disorder, paroxysmal hypertension, factitious disorder),
   consider psychiatry eval if all studies are negative.
   - Neurology following - appreciate recs
   - Cardiology following - appreciate recs
   - monitor on telemetry
   - f/u remaining studies and tests (OCTREOTIDE , 24 Urine MN,CCA, HIAA,
   review OSH reports)
   - will attempt to sit up
 recheck orthostatics
   - send lyme serologies
   .
   # History of Head Trauma/Seizure - pt reports only 1 seizure in past at
   the time of her fall - was briefly on dilantin
   - MRI/MRA normal,
   - consider EEG with positional changes
   .
   # IBS
 does not seem active
   - monitor stool output
   .
   # FEN - drink to thirst, fluid repletion, replete lytes PRN.
   # Glycemic control
 good control
   # Access
 PIV
   # PPx
 heparin SQ
   # Code - Full
   # Disposition: ICU for now, patient may be able to go to floor for
   remainder of evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-10-13**] 09:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-17 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2141-10-16**] 12:15 PM
   At the end of the scan, pt c/o acute chest pain. MICU MD down to
   examine pt. Pt received 1 mg ativan and 1 mg morphine sulfate. chest
   pain subsided after morphine given.
 CHEST PAIN - At [**2141-10-16**] 01:00 PM
   HR up to 150 SBP 120's, 02 sats 97-100% on 2L 02 via n/c.
   Several episodes yesterday and today, all with same presentation, all
   resolved with 0.5-1mg morphine, 0.5-1.0 mg Ativan.
   Sat up during rounds this morning, immediately had another episode w/
   HR going from 70s to 170 and SBP from 95 to 140+.
   Had first part of her Octreotide scan yesterday, second scan today.
   Allergies:
   Prochlorperazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-10-16**] 10:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-17**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.6
C (96
   HR: 59 (55 - 92) bpm
   BP: 93/61(68) {88/46(56) - 113/70(79)} mmHg
   RR: 14 (11 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 21 Inch
                  Total In:
                                                                  1,800 mL
                  PO:
                                                                  1,800 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                      0 mL
   Urine:
                                                                  4,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,300 mL
                                                                      0 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, resting
   comfortably supine.
   Eyes / Conjunctiva: PERRL, dilated pupils 6mm ->5mm, EOMI, nonicteric,
   noninjected sclera, no nystagmus,
   Head, Ears, Nose, Throat: Normocephalic, atraumatic, OP MMM, no
   erythema
   Lymphatic: Cervical WNL
   Cardiovascular: S1,S2 wnl, mild flow murmur this am 2/6 systolic, at
   LSB.
   Respiratory / Chest: CTA bilaterally, no rales, rhonchi, or wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Extremities: no edema, DP 2+ bil.
   Skin:  Warm, normal turgor
   Neurologic: A+Ox3, appropriate, though somewhat childlike affect.
   CNII-XII intact.
   Labs / Radiology
   272 K/uL
   12.9 g/dL
   87 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   135 mEq/L
   34.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2141-10-11**]  08:16 PM
                             [**2141-10-12**]  08:04 AM
                             [**2141-10-13**]  04:45 AM
                             [**2141-10-14**]  06:21 AM
                             [**2141-10-15**]  03:40 AM
   WBC
   5.7
   5.8
   5.7
   5.4
   5.3
   Hct
   33.3
   35.2
   31.5
   33.8
   34.1
   Plt
   272
   306
   283
   289
   272
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   Glucose
   95
   91
   104
   85
   87
   Other labs: PT / PTT / INR:13.0/25.8/1.1, CK / CKMB / Troponin-T:46//,
   ALT / AST:20/20, Alk Phos / T Bili:53/0.3, Amylase / Lipase:42/42,
   Differential-Neuts:52.4 %, Lymph:38.6 %, Mono:6.0 %, Eos:2.6 %,
   D-dimer:169 ng/mL, Albumin:4.0 g/dL, LDH:107 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   #. Postural Hemodynamic Changes
 Pt has had multiple episodes of CP,
   tachycardia, and HTN, both when supine, and with elevation. While the
   events seem can be precipitated by postural changes, they do not
   require them. The episodes have a significant component of chest pain,
   substernal, [**8-27**], nonradiating, that will slowly decrease after
   episodes has resolved. Pt has been observed to develop signs of pain
   before hemodynamic changes, though the two evens happen closeThe
   differential includes Pheochromocytoma, POTS, carcinoid, GBS w/
   autonomic dysreflexia, psuedopheochromocytoma, and Cardiac.
   -Pheochromocytoma is unlikey with a negative test for serum
   metanephrines (from OSH).  Serum metanephrines are the test with the
   highest specificity for pheochromocytoma (97%). 24h Urine metanephrines
   and catecholamines have greater specificity, and are pending from OSH.
   Additionally CT-Abd at the OSH showed normal kidnesy and adrenals.
   There was normal per-appendiceal regions. There was a small density in
   the appendix that is likely a fecolith. Will follow up remaining labs.
   If other tests are all negative will consider re-evaluation of the
   appendix.
   -Carcinoid: reassuring CT-abd. HIAA pending.
   -GBS: had a normal EMG at the OSH, will consider repeat EMG or LP if
   other studies continue to be negative.
   -Intracranial process: Had negative HD CT x 2. MRI yesterday normal
   (two cystic structures, chronic arachnoid cysts)
   -PE/Dissection/pulmonary/pleuritic process: negative CT-[**MD Number(3) 856**],
   normal CXRs, normal sats,
   - CAD unlikely w/ stable CEs at multiple points, Normal EKGs, and no
   EKGs during episodes.
   - Cardiac structural/mass: ECHO yesterday was normal.
   - Will have Octreatide scan which may be able to find rare
   pheochromocytomas or carcinoid tumors, e.g intra cardiac.
   - Seizure, unlikely, but does have mild post-episode fatigue,
   ?post-ictal symptoms. Consider EEG.
   - Lyme serologies - negative
   - Consider psychiatric related diagnoses after all testing is completed
   (e.g. panic disorder, paroxysmal hypertension, factitious disorder),
   consider psychiatry eval if all studies are negative.
   - Neurology following
   baroreceptor dysfunction.
   - Cardiology following - appreciate recs
   - monitor on telemetry
   - f/u remaining studies and tests (OCTREOTIDE , repeat 24 Urine MN,CCA,
   and HIAA)
   - BARIUM swallow today to eval for esophageal spasm
   - Start PPI for possible GERD induced symptoms
   .
   # History of Head Trauma/Seizure - pt reports only 1 seizure in past at
   the time of her fall - was briefly on dilantin
   - MRI/MRA normal,
   - consider EEG with positional changes
   .
   # IBS
 does not seem active
   - monitor stool output
   .
   # FEN - drink to thirst, fluid repletion, replete lytes PRN.
   # Glycemic control
 good control
   # Access
 PIV
   # PPx
 heparin SQ
   # Code - Full
   # Disposition: ICU for now, patient may be able to go to floor for
   remainder of evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-10-13**] 09:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-18 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2141-10-17**] 11:00 AM
 FLUOROSCOPY - At [**2141-10-17**] 03:00 PM
 EKG - At [**2141-10-17**] 09:16 PM
 CALLED OUT
   Started on PPi
   Negative Barium Swallow
   Negative Octreotide Scan
   2 episodes of CP, HTN yesterday, episode last night last longer in
   setting that nursing provided ativan without morphine
   Increased standing Morphine to 0.5-1mg
   Neuro Sign-Off
   Allergies:
   Prochlorperazine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-18**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 62 (54 - 171) bpm
   BP: 95/61(70) {86/46(52) - 160/114(130)} mmHg
   RR: 15 (10 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 21 Inch
                  Total In:
                                                                    840 mL
                                                                     60 mL
   PO:
                                                                    840 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    500 mL
   Urine:
                                                                  2,200 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,360 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, resting
   comfortably supine.
   Eyes / Conjunctiva: PERRL, dilated pupils 6mm ->5mm, EOMI, nonicteric,
   noninjected sclera, no nystagmus,
   Head, Ears, Nose, Throat: Normocephalic, atraumatic, OP MMM, no
   erythema
   Lymphatic: Cervical WNL
   Cardiovascular: S1,S2 wnl, mild flow murmur this am 2/6 systolic, at
   LSB.
   Respiratory / Chest: CTA bilaterally, no rales, rhonchi, or wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Not Distended
   Extremities: no edema, DP 2+ bil.
   Skin:  Warm, normal turgor
   Neurologic: A+Ox3, appropriate, though somewhat childlike affect.
   CNII-XII intact.
   Labs / Radiology
   272 K/uL
   12.9 g/dL
   87 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   8 mg/dL
   103 mEq/L
   135 mEq/L
   34.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2141-10-11**]  08:16 PM
                             [**2141-10-12**]  08:04 AM
                             [**2141-10-13**]  04:45 AM
                             [**2141-10-14**]  06:21 AM
                             [**2141-10-15**]  03:40 AM
   WBC
   5.7
   5.8
   5.7
   5.4
   5.3
   Hct
   33.3
   35.2
   31.5
   33.8
   34.1
   Plt
   272
   306
   283
   289
   272
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   Glucose
   95
   91
   104
   85
   87
   Other labs: PT / PTT / INR:13.0/25.8/1.1, CK / CKMB / Troponin-T:46//,
   ALT / AST:20/20, Alk Phos / T Bili:53/0.3, Amylase / Lipase:42/42,
   Differential-Neuts:52.4 %, Lymph:38.6 %, Mono:6.0 %, Eos:2.6 %,
   D-dimer:169 ng/mL, Albumin:4.0 g/dL, LDH:107 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   #. Postural Hemodynamic Changes
 Pt has had multiple episodes of CP,
   tachycardia, and HTN, both when supine, and with elevation. While the
   events seem can be precipitated by postural changes, they do not
   require them. The episodes have a significant component of chest pain,
   substernal, [**8-27**], nonradiating, that will slowly decrease after
   episodes has resolved. Pt has been observed to develop signs of pain
   before hemodynamic changes, though the two evens happen closeThe
   differential includes Pheochromocytoma, POTS, carcinoid, GBS w/
   autonomic dysreflexia, psuedopheochromocytoma, and Cardiac.
   -Pheochromocytoma is unlikey with a negative test for serum
   metanephrines (from OSH).  Serum metanephrines are the test with the
   highest specificity for pheochromocytoma (97%). 24h Urine metanephrines
   and catecholamines have greater specificity, and are pending from OSH.
   Additionally CT-Abd at the OSH showed normal kidnesy and adrenals.
   There was normal per-appendiceal regions. There was a small density in
   the appendix that is likely a fecolith. Will follow up remaining labs.
   If other tests are all negative will consider re-evaluation of the
   appendix.
   -Carcinoid: reassuring CT-abd. HIAA pending.
   -GBS: had a normal EMG at the OSH, will consider repeat EMG or LP if
   other studies continue to be negative.
   -Intracranial process: Had negative HD CT x 2. MRI yesterday normal
   (two cystic structures, chronic arachnoid cysts)
   -PE/Dissection/pulmonary/pleuritic process: negative CT-[**MD Number(3) 856**],
   normal CXRs, normal sats,
   - CAD unlikely w/ stable CEs at multiple points, Normal EKGs, and no
   EKGs during episodes.
   - Cardiac structural/mass: ECHO yesterday was normal.
   - Will have Octreatide scan which may be able to find rare
   pheochromocytomas or carcinoid tumors, e.g intra cardiac.
   - Seizure, unlikely, but does have mild post-episode fatigue,
   ?post-ictal symptoms. Consider EEG.
   - Lyme serologies - negative
   - Consider psychiatric related diagnoses after all testing is completed
   (e.g. panic disorder, paroxysmal hypertension, factitious disorder),
   consider psychiatry eval if all studies are negative.
   - Neurology following
   baroreceptor dysfunction.
   - Cardiology following - appreciate recs
   - monitor on telemetry
   - f/u remaining studies and tests (OCTREOTIDE , repeat 24 Urine MN,CCA,
   and HIAA)
   - BARIUM swallow today to eval for esophageal spasm
   - Start PPI for possible GERD induced symptoms
   .
   # History of Head Trauma/Seizure - pt reports only 1 seizure in past at
   the time of her fall - was briefly on dilantin
   - MRI/MRA normal,
   - consider EEG with positional changes
   .
   # IBS
 does not seem active
   - monitor stool output
   .
   # FEN - drink to thirst, fluid repletion, replete lytes PRN.
   # Glycemic control
 good control
   # Access
 PIV
   # PPx
 heparin SQ
   # Code - Full
   # Disposition: ICU for now, patient may be able to go to floor for
   remainder of evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-10-17**] 02:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: